US03974212
A stirred solution of [1-oxo-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid hemihydrate (6.12 g., 0.015 mole) and hydroxylamine hydrochloride (3.2 g., 0.045 mole) in pyridine (60 ml.) is heated at 95°C. on a steam bath for 36 hours then poured into aqueous hydrochloric acid affording [1-hydroximino-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid.

reactant | [1-oxo-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid hemihydrate | 0.015 mole, 6.12 g | O.O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)Cl.O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=C(C=C1)Cl)C
reactant | hydroxylamine hydrochloride | 0.045 mole, 3.2 g | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | [1-hydroximino-2-(4-chlorophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | N(O)=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)Cl | C18H14Cl3NO4
